US09212187B2
7-Bromomethyl-1-ethyl-3,3,5-trimethyl-1,5-dihydro-benzo[b][1,4]diazepine-2,4-dione
Lithium bromide (0.678 g) was added to an THF solution (2.3 ml) of 7-chloromethyl-1-ethyl-3,3,5-trimethyl-1,5-dihydro-benzo[b][1,4]diazepine-2,4-dione (0.23 g), and the mixture was stirred at room temperature overnight. Water was added to the reaction mixture, followed by extraction using ethyl acetate. The organic layer was dried with magnesium sulfate, and was condensed under reduced pressure to give the title compound(0.24 g) as a white solid.

reactant | Lithium bromide | 0.678 g | [Br-].[Li+]
reactant | THF | 2.3 ml | C1CCOC1 | C4H8O
reactant | 7-chloromethyl-1-ethyl-3,3,5-trimethyl-1,5-dihydro-benzo[b][1,4]diazepine-2,4-dione | 0.23 g | ClCC1=CC2=C(N(C(C(C(N2C)=O)(C)C)=O)CC)C=C1 | C15H19ClN2O2
solvent | Water | O | H2O
product | 7-Bromomethyl-1-ethyl-3,3,5-trimethyl-1,5-dihydro-benzo[b][1,4]diazepine-2,4-dione | 0.24 g | BrCC1=CC2=C(N(C(C(C(N2C)=O)(C)C)=O)CC)C=C1 | C15H19BrN2O2
